US04604397
To a solution of 10 g of 8-methoxy-3,4-dihydro-2H-[1]-benzothiopyran-3-carboxylic acid in 200 ml of methylene chloride is added 6.2 g of N-chlorosuccinimide in portions. After 10 minutes 60 g of silica gel is added. The reaction mixture is stirred for 15 minutes, filtered through 40 g of silica gel eluting with ether/methylene chloride (1:1). The solvent is concentrated to 100 ml, 5 ml of triethylamine and 5 g of ethyl chloroformate are added. After concentration 5 g of sodium azide in 60 ml of dimethylformamide are added and the reaction mixture is stirred for 1 hour. After dilution with water the products are extracted with ether, the ether extract is dried and evaporated to dryness; 150 ml of 10% aqueous sulfuric acid is added and the reaction mixture is heated under reflux for 2 hours. The reaction mixture is extracted with ether, the ether extract is washed with dilute sodium bicarbonate solution, dried and evaporated to dryness. Crystallization from methanol affords 8-methoxythiochroman-3-one, m.p. 60°.

reactant | 8-methoxy-3,4-dihydro-2H-[1]-benzothiopyran-3-carboxylic acid | 10 g | COC1=CC=CC=2CC(CSC21)C(=O)O | C11H12O3S
reactant | N-chlorosuccinimide | 6.2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 8-methoxythiochroman-3-one | COC=1C=CC=C2CC(CSC12)=O | C10H10O2S
